US07629363B2
Step 1. Preparation of 3-chloro-1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one
To a mixture of 1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one (0.30 g, 1.26 mmol) in dichloromethane (5 mL) was added NCS (2.52 g, 1.90 mmol). The reaction mixture stirred at room temperature under nitrogen for 4.5 hours. The suspension was cooled in ice bath, filtered, and the solid was rinsed with fresh dichloromethane to afford the desired product (0.271 g, 79%) as a white solid. 1H-NMR (CD3OD, 400 MHz) δ 7.58 (m, 1H), 7.22 (m, 2H), 6.20 (s 1H), 2.00 (s, 3H); ES-HRMS m/z 272.0287 (M+H calculated for C12H9NO2F2Cl requires 272.0290).

reactant | 1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 1.26 mmol, 0.30 g | FC1=C(C(=CC=C1)F)N1C(C=C(C=C1C)O)=O | C12H9F2NO2
reactant | NCS | 1.90 mmol, 2.52 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-chloro-1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 0.271 g, 79% | ClC=1C(N(C(=CC1O)C)C1=C(C=CC=C1F)F)=O | C12H8ClF2NO2
